US05580986
3. 5-Amino-4-cyano-1-(1-methyl-5-methylmercapto-3-pyrazolyl)pyrazole
A mixture of 2.0 g (13.1 mmol) 3-Hydrazino-1-methyl-5-methylmercaptopyrazole and 1.8 g (14.4 mmol) ethoxymethylenemalononitrile in 25 ml ethanol was stirred for 30 minutes at room temperature and heated at boiling point for 3 hours. The reaction mixture was concentrated and the residue purified by silica gel chromatography (hexane/ethyl acetate 1:1).

reactant | 3-Hydrazino-1-methyl-5-methylmercaptopyrazole | 13.1 mmol, 2.0 g | N(N)C1=NN(C(=C1)SC)C | C5H10N4S
reactant | ethoxymethylenemalononitrile | 14.4 mmol, 1.8 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-Amino-4-cyano-1-(1-methyl-5-methylmercapto-3-pyrazolyl)pyrazole | NC1=C(C=NN1C1=NN(C(=C1)SC)C)C#N | C9H10N6S
